US08492582B2
Trifluoroacetic acid (5 mL) was added to the obtained tert-butyl 4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoate, followed by stirring at room temperature for 3 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the obtained residue. The solid substance was collected by filtration to obtain 40 mg of 4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoic acid as a white solid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoate | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C29H26N2O3
product | 4-phenyl-2-(5-phenylpyridine-3-carboxamido)benzoic acid | 40 mg | C1(=CC=CC=C1)C1=CC(=C(C(=O)O)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C25H18N2O3
